US09445594B2
Preparation of methyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetate (C17)
In a 200 mL flask, 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (3.45 g, 11.2 mmol), and methyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate (3.71 g, 13.4 mmol) were diluted with dioxane (45 mL) and water (11 mL). This solution was sparged with nitrogen gas for 10 minutes. Then tri-tert-butylphosphonium tetrafluoroborate (0.325 g, 1.12 mmol), diacetoxypalladium (0.126 g, 0.560 mmol) and cesium fluoride (3.40 g, 22.4 mmol) were added as solids. The flask was sealed and evacuated with vacuum and purged with nitrogen gas. The reaction was warmed to an internal temperature of 60° C. and stirred for 18 hours. The reaction was poured into a brine solution and extracted with ethyl acetate (3×50 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated. The resulting residue was purified by flash chromatography using 0-10% ethyl acetate/hexanes as eluent to afford the title compound as an off white solid (3.45 g, 82%): 1H NMR (400 MHz, DMSO-d6) δ 9.41 (s, 1H), 8.11-8.04 (m, 4H), 7.63 (ddt, J=7.9, 2.1, 1.1 Hz, 2H), 7.48-7.36 (m, 2H), 3.77 (s, 2H), 3.64 (s, 3H); 19F NMR (376 MHz, DMSO-d6) δ −57.02; ESIMS m/z 378 ([M+H]+)

reactant | 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 11.2 mmol, 3.45 g | BrC1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C9H5BrF3N3O
reactant | methyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate | 13.4 mmol, 3.71 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)OC)C | C15H21BO4
reactant | tri-tert-butylphosphonium tetrafluoroborate | 1.12 mmol, 0.325 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | cesium fluoride | 22.4 mmol, 3.40 g | [F-].[Cs+]
solvent | dioxane | 45 mL | O1CCOCC1 | C4H8O2
solvent | water | 11 mL | O | H2O
catalyst | diacetoxypalladium | 0.560 mmol, 0.126 g | C(C)(=O)O[Pd]OC(C)=O
product | methyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetate | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CC(=O)OC)(F)F | C18H14F3N3O3
